US06933311B2
N-[4-(1-azepanyl)-3-fluorobenzyl]-2-(5-isoquinolinyl)propanamide
The title compound was prepared using the procedure described in Example 222B using 4-(1-azepanyl)-3-fluorobenzylamine and 2-(5-isoquinolinyl)propanoic acid instead of 4-(trifluoromethoxy)benzylamine and 5-isoquinolinylacetic acid. MS (ESI+) m/z 406 (M+H)+; MS (ESI−) m/z 404 (M−H)−; 1H NMR (DMSO, 300 MHz) δ 1.53 (m, 7H), 1.72 (m, 4H), 3.32 (m, 4H), 3.65 (s, 2H), 4.18 (q, J 7.1, 1H), 6.86 (m, 3H), 7.58 (m, 2H), 7.74 (m, 1H), 8.13 (m, 2H), 8.52 (d, J 7.8, 1H), 9.30 (s, 1H); Anal. Calcd for C25H28FN3O+3.25 HCl: C, 57.30; H, 6.01. Found: C, 57.26; H, 5.98.

reactant | 4-(1-azepanyl)-3-fluorobenzylamine | N1(CCCCCC1)C1=C(C=C(CN)C=C1)F | C13H19FN2
reactant | 2-(5-isoquinolinyl)propanoic acid | C1=NC=CC2=C(C=CC=C12)C(C(=O)O)C | C12H11NO2
reactant | 5-isoquinolinylacetic acid | C1=NC=CC2=C(C=CC=C12)CC(=O)O | C11H9NO2
product | N-[4-(1-azepanyl)-3-fluorobenzyl]-2-(5-isoquinolinyl)propanamide | N1(CCCCCC1)C1=C(C=C(CNC(C(C)C2=C3C=CN=CC3=CC=C2)=O)C=C1)F | C25H28FN3O
